US07294716B2
2-(2-(Carbamoylmethoxy)-4-{[(4-methoxyphenyl)amino]sulfonyl}phenoxy)acetamide (Intermediate A86)
Solid 2-[2-(carbamoylmethoxy)-5-(chlorosulfonyl)phenoxy acetamide (Intermediate A85, 161.25 g, 0.5 mol) was added to a solution of p-anisidine (49.2 g, 0.4 mol) in pyridine (3.5 L) and stirred at room temperature overnight under argon. The reaction mixture was concentrated under reduce pressure. The residue was treated with 0.75 M hydrochloric acid (3 L) and the resulting solid was collected. The solid was washed with water (3×1 L), methanol (750 mL) and dried to give 99 g (60%) of the title compound, sulfonamide.

reactant | 2-(carbamoylmethoxy)-5-(chlorosulfonyl)phenoxy acetamide | 0.5 mol, 161.25 g | C(N)(=O)COC1=C(OCC(=O)N)C=C(C=C1)S(=O)(=O)Cl | C10H11ClN2O6S
reactant | p-anisidine | 0.4 mol, 49.2 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | pyridine | 3.5 L | N1=CC=CC=C1 | C5H5N
product | 2-(2-(Carbamoylmethoxy)-4-{[(4-methoxyphenyl)amino]sulfonyl}phenoxy)acetamide | 99 g, 60% | C(N)(=O)COC1=C(OCC(=O)N)C=CC(=C1)S(=O)(=O)NC1=CC=C(C=C1)OC | C17H19N3O7S
